* ============================================
* Test: read_disturb_hi.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tb/8T_tb.spice
.include /workspace/analog/designs/params_6T.spice
.include /workspace/analog/designs/params_8T.spice
.include /workspace/analog/designs/pvt.spice

* weak keeper: PMOS, gate=VSS (always weakly on), holds RBL high
MKEEP rbl vss vdd vdd pfet_03v3 L=0.32u W=0.22u

* -- stimulus --
VVDD vdd  0 {VDD_CORNER}                        ; supply
VVSS vss  0 0                                   ; source
VWL  wl   0 0                                   ; read: OFF
VBL  wbl  0 0                                   ; bitlines parked (or floating)
VBLB wblb 0 0                                   ; bitlines parked (or floating)
CRBL rbl  0 5f                                  ; capacitive load on bitline 
VA   a    0 PULSE(0 {VDD_CORNER} 2n 0.1n 0.1n 5n 10n)    ; set Activation = HI
* -- initial conditions --
.ic v(rbl)={VDD_CORNER}
.ic v(q)={VDD_CORNER} v(qb)=0


* -- sim --
.control
  save all

  * --- start transient analysis --- 
  tran 0.1n 10000n uic

  * --- validate data ---
  echo
  meas tran q_init    FIND v(q) AT= 2n
  meas tran q_mid     FIND v(q) AT=50n
  meas tran q_final   FIND v(q) AT=99n
  echo
  meas tran q_min MIN v(q) FROM=2n TO=100n
  
  * --- save .raw for python parsing ---
  write /workspace/analog/sim/8t/results/read_disturb_hi.raw all
.endc

.end